US07217723B2
N-[(2R)-2-(4-fluorophenyl)-2-hydroxyethyl]-N-methyl-7-oxo-4,5,6,7-tetrahydro-1-benzothiophene-3-sulfonamide
From 7-oxo-4,5,6,7-tetrahydrobenzo[b]thiophene-3-sulfonyl chloride (the compound of Preparation Example 7) (286 mg) and (1R)-1-(4-fluorophenyl)-2-(methylamino)ethanol (the compound of Preparation Example 40) (212 mg), the title compound (356 mg) was obtained as a colorless solid, in the same way as Preparation Example 41. The NMR data matched the racemic mixture described in Preparation Example 48. The optical purity as measured by high performance liquid chromatography (ChiralPak AD-H, hexane:2-propanol=8:2) was >99% e.e.

reactant | 7-oxo-4,5,6,7-tetrahydrobenzo[b]thiophene-3-sulfonyl chloride | O=C1CCCC2=C1SC=C2S(=O)(=O)Cl | C8H7ClO3S2
reactant | (1R)-1-(4-fluorophenyl)-2-(methylamino)ethanol | FC1=CC=C(C=C1)[C@H](CNC)O | C9H12FNO
product | N-[(2R)-2-(4-fluorophenyl)-2-hydroxyethyl]-N-methyl-7-oxo-4,5,6,7-tetrahydro-1-benzothiophene-3-sulfonamide | 356 mg | FC1=CC=C(C=C1)[C@H](CN(S(=O)(=O)C1=CSC2=C1CCCC2=O)C)O | C17H18FNO4S2
